US04456621
Peppermint oil containing a reduced menthofuran content is prepared by reacting the peppermint oil with about 0.5% to about 15% by weight maleic anhydride, based on the weight of peppermint oil to selectively form a menthofuran-maleic anhydride adduct without otherwise affecting the flavoring agent properties of the remaining peppermint oil constituents and recovering the peppermint oil therefrom.

reactant | menthofuran | CC1=COC2=C1CCC(C2)C | C10H14O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
product | menthofuran maleic anhydride | CC1=COC2=C1CCC(C2)C.C1(\C=C/C(=O)O1)=O | InChI=1S/C10H14O.C4H2O3/c1-7-3-4-9-8(2)6-11-10(9)5-7;5-3-1-2-4(6)7-3/h6-7H,3-5H2,1-2H3;1-2H
